US05981572
N-[3-(5-Bromo-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
A solution of 3-(5-bromo-2,3-dihydro-benzofuran-4-yl)-propylamine (256 mg) in pyridine (3 ml) at 40 was treated with acetic anhydride (0.11 ml) and the solution stored overnight at 4°. The cold solution was acidified with 2N hydrochloric acid and the mixture extracted with ethyl acetate. The extracts were dried and evaporated and the residue chromatographed on silica (20 g) using dichloromethane:methanol:ammonia (100:8:1) to give the title compound as an oil which slowly solidified (175 mg).

reactant | 3-(5-bromo-2,3-dihydro-benzofuran-4-yl)-propylamine | 256 mg | BrC=1C=CC2=C(CCO2)C1CCCN | C11H14BrNO
reactant | acetic anhydride | 0.11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(5-Bromo-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | BrC=1C=CC2=C(CCO2)C1CCCNC(C)=O | C13H16BrNO2
